Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ woman with a history of HTN, HLD, 
Raynaud's, significant TB risk factors and positive quant Gold, 
and multiple recent hospitalizations for fevers in the setting 
of pericarditis and pericardial/pleural effusions, who presented 
from her PCP's office with recurrent fevers and persistent 
pleuritic chest pain following conclusion of an antibiotic 
course for HCAP. Ms. ___ presented to her PCP's office today 
with fevers up to 101.3 x 2 nights (measured at home) after 
completing her course of oral cefpodoxime for presumed HCAP. 
Fevers were associated with her usual intermittent, nondrenching 
night sweats and dry cough. She took Tylenol with improvement in 
fevers. This morning, she took her blood pressure, and it was 
low (100s systolic) and heart rate was high (100s), so she held 
her Atenolol and she presented to Urgent Care. In her PCP's 
office, VS were 97.5 104 145/90 16 99% RA.  Exam was notable for 
tachycardia and a slight diastolic murmur. No labs or imaging 
were performed. Decision was made to directly admit to ___ 
Medicine for further management. 

Of note, Ms. ___ was admitted on ___ for acute 
pericarditis and discharged on colchicine and an ibuprofen 
taper, but her symptoms worsened and she was subsequently 
re-admitted on ___ for chest pain and found on outpatient 
TTE with moderately sized pericardial effusion.  Her effusion 
remained stable without tamponade physiology, but she developed 
fevers of 103 with a new chest discomfort different from her 
episodes of pericarditis a/w worsening cough and admitted 
___ for r/o pulmonary TB and treatment of presumed HCAP 
and discharged home to complete a course of antibiotics. During 
her most recent hospitalization from ___, she was treated 
for presumed HCAP after being ruled-out for active pulmonary TB 
and was medically cleared by infectious disease for discharge. 
Notably, she declined pericardiocentesis to rule out pericardial 
TB. Given marked clinical improvement on IV antibiotics, she was 
therefore discharged home to complete a course of antibiotics 
with cefpodoxime (fluoroquinolones avoided because of concern 
for TB).  However, after completing cefpodoxime on ___, she 
spiked another fever with chills and night sweats.  She 
presented to urgent care on ___ with fevers, pleuritic chest 
pain, hypotension, and tachycardia. 

Notably, over the past month, Ms. ___ reports having had 
worsening night sweats, nonproductive cough, and chest pain with 
deep inspiration.  She says that her night sweats had occurred 
about ___ years prior, and was evaluated by Dr. ___ ___.  In 
___, while applying to be a volunteer at ___, her quant 
gold testing was notably positive.  She did not get treated at 
that time.  Ms. ___ is a former ___ and ___ with 
significant occupational exposures to TB, having traveled 
extensively oversees and worked on several medical missions.  
She denies any hemoptysis, but has had a chronic hacking cough 
for several months.  No palpitations, lightheadedness, 
dizziness. Taking good PO and making good urine. 

On arrival to the floor, she was started on IV 
vancomycin/cefepime and given tylenol for fevers. She was
continued on colchicine and ibuprofen.  She had a negative UA, 
and CXR with trace bilateral pleural effusions.  Labs notable 
for a normal lactate and leukocytosis of 11.5. She had two 
negative trops and EKG without e/o ischemia. TTE showed 
decreased pericardial effusion with no tamponade. Pulsus was 10. 
  She continues to report chills, nightsweats, and a dry cough. 
She continues to have chest tightness with deep inspiration.  No 
rhinorrhea, abdominal pain, nausea, vomiting, new diarrhea, or 
rashes.
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, NO DM
2. CARDIAC HISTORY:  
- CABG:  None
- PERCUTANEOUS CORONARY INTERVENTIONS:  None
- PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:
IPMN (intraductal papillary mucinous neoplasm)
Osteopenia
Colonic Adenoma
Pericarditis
Pleural effusions
Positive quantiferon gold
Raynaud's
 
Social History:
___
Family History:
Father: MI
Mother: ___
Paternal family +cancers
 
Physical Exam:
ADMISSION EXAM:
====================
VS: Tc 100 Tmax 100.3 BP 125/67 (103-154) HR 92-100 O2Sat 95% on 
RA 
General- Alert, oriented, in no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lymph- no lymphadenopathy in the periauricular, cervical, 
anterior chains
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema    
Neuro - A&Ox3

DISCHARGE EXAM:
====================
Vitals: T 99.4 BP 124/59 HR 95 RR 16 O2Sat 94% RA
General: Well-appearing, in NAD
HEENT: Normocephalic atraumatic, no conjunctival injection, 
sclera anicteric. 
Neck: JVP elevated, ___ at 30 degrees. No periauricular, 
anterior, clavicular chain lymphadenopathy.
Lungs: Clear to auscultation bilaterally. No wheezes, rhonchi, 
rales, stridor.
CV: Tachycardic, normal rhythm. No murmurs, rubs, gallops.    
Ext: Warm and well perfused. No clubbing, cyanosis, edema.
NEURO: Anxious, A&Ox3. CNII-XII grossly intact.
 
Pertinent Results:
ADMISSION LABS:
=======================
___ 06:55PM BLOOD WBC-11.5* RBC-4.03 Hgb-12.2 Hct-36.9 
MCV-92 MCH-30.3 MCHC-33.1 RDW-13.0 RDWSD-42.5 Plt ___
___ 06:55PM BLOOD Neuts-77* Bands-1 Lymphs-16* Monos-5 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-8.97* 
AbsLymp-1.84 AbsMono-0.58 AbsEos-0.00* AbsBaso-0.00*
___ 06:55PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL
___ 06:55PM BLOOD Plt Smr-HIGH Plt ___
___ 06:55PM BLOOD Glucose-102* UreaN-10 Creat-0.6 Na-137 
K-4.5 Cl-96 HCO3-27 AnGap-19
___ 06:55PM BLOOD CK(CPK)-58
___ 06:55PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:55PM BLOOD Calcium-9.6 Phos-3.5 Mg-2.0
___ 07:51PM BLOOD Lactate-1.6

___ 10:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:30PM URINE RBC-2 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-1

OTHER PERTINENT LABS:
=======================
___ 03:00PM BLOOD ___
___ 03:00PM BLOOD RheuFac-12
___ 03:00PM BLOOD ANCA-NEGATIVE B
___ 03:00PM BLOOD TSH-1.6
___ 11:55AM BLOOD D-Dimer-3813*
___ 06:45AM BLOOD ___ VIRUS B ANTIBODIES-PND
___ 06:45AM BLOOD SED RATE-Test      
___ 04:00PM BLOOD MYCOPLASMA PNEUMONIAE ANTIBODIES (IGG, 
IGM)-PND
___ 07:28PM BLOOD BRUCELLA ANTIBODY, AGGLUTINATION-PND
___ 06:55PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:40AM BLOOD cTropnT-<0.01

MICRO:
=======================
___ 10:30 pm URINE     Site: CLEAN CATCH

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 7:00 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING/STUDIES:
=======================
CXR ___:
IMPRESSION: 
The lungs are well expanded and clear.  The mediastinal 
contours, hila, and
cardiac borders are stable. Trace bilateral pleural effusions 
are slightly
improved from ___. Biapical scarring is unchanged.
 
TTE ___:
The estimated right atrial pressure is ___ mmHg. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. There is no aortic 
valve stenosis. There is a very small pericardial effusion. 
There are no echocardiographic signs of tamponade. 
IMPRESSION: Very small pericardial effusion. No tamponade. 
Compared with the prior study (images reviewed) of ___, 
the findings are similar. 

CTA ___:
IMPRESSION:
1. No evidence of pulmonary embolism or aortic abnormality.
2. Slight interval increase in small bilateral pleural effusions 
with
associated relaxation atelectasis.
3. Unchanged small to moderate pericardial effusion without 
peripheral
enhancement to suggest pericarditis.
4. Similar appearance of mild pulmonary edema.

DISCHARGE LABS:
=======================
___ 06:45AM BLOOD WBC-8.8 RBC-3.81* Hgb-11.3 Hct-34.7 
MCV-91 MCH-29.7 MCHC-32.6 RDW-12.7 RDWSD-42.2 Plt ___
___ 06:45AM BLOOD Neuts-67.2 ___ Monos-7.9 Eos-0.7* 
Baso-0.7 Im ___ AbsNeut-5.94 AbsLymp-1.94 AbsMono-0.70 
AbsEos-0.06 AbsBaso-0.06
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-92 UreaN-7 Creat-0.6 Na-137 K-4.3 
Cl-95* HCO3-30 AnGap-16
___ 06:45AM BLOOD Albumin-3.4* Calcium-9.2 Phos-3.5 Mg-2.1
___ 06:45AM BLOOD ALT-61* AST-38 LD(LDH)-184 AlkPhos-208* 
TotBili-0.4
___ 06:45AM BLOOD CRP-87.8*
 
Brief Hospital Course:
___ with a history of HTN, HLD, Raynaud's, significant TB risk 
factors and positive quant gold, and multiple recent admissions 
for recurrent fevers in the setting of pericarditis and 
pericardial/pleural effusions, who presented with recrudescence 
of fevers following conclusion of an antibiotic course for HCAP.

# Pericarditis: On admission, patient presented with persistent 
pleuritic chest pain similar to her prior episodes of 
pericarditis. She also had fevers, similar to her last 
presentation.  Symptoms appear to wax and wane over the past 
month, etiology thought likely to be viral or TB pericarditis. 
TTE demonstrated resolving small pericardial effusion without 
tamponade physiology. Infectious, rheumatologic, and endocrine 
work-up thus far has been unrevealing. Notably, patient has 
extensive occupational TB exposures and history of positive 
Quant Gold in ___ and longstanding positive PPD dating back to 
___ (per OMR note by Dr. ___, she had a 22mm of 
induration, repeated in ___ that was positive again) supporting 
pericardial TB. HIV negative, and blood cultures negative. ID 
was consulted and thinks the clinical picture is likely 
consistent with tuberculosis pericarditis. They recommended 
pericardial biopsy which was discussed with the patient, but she 
declined pursuing this. ID does not recommend starting 
tuberculosis therapy at this time unless the patient is willing 
to commit to the full course of treatment and accept the 
diagnostic uncertainty. We continued the patient on ibuprofen 
and adjunctive colchicine. On discharge, she has pending 
Brucella, Mycoplasma pneumonia, and ___ serologies.

# Sinus tachycardia: Most likely due to accidentally not 
ordering atenolol on admission resulting in beta blocker 
withdrawal and rebound tachycardia.  

# Fevers and nightsweats: On admission, patient presented with 
recurrent fevers and persistent nondrenching nightsweats for 
nearly a month in the setting of recurrent pericarditis with 
pericardial effusion and pleural effusions. Given her multiple 
TB risk factors, clinical symptoms of fevers/chronic cough/night 
sweats and positive Quant Gold, per evaluation by infectious 
disease, there is a high index of suspicion for TB pericarditis. 
Symptoms highly concerning for TB pericarditis, as infectious, 
endocrine, and rheumatologic work-up thus far negative. 
Malignancy still possible though PFA cytology from prior 
admission was negative for malignant cells. Given concern during 
her last hospitalization that fevers may have been attenuated by 
the concurrent use of high dose NSAID for treatment of 
pericarditis, we held her NSAIDs from ___ without 
rescrudescence of fevers. NSAIDs were restarted to prevent 
pericarditis recurrence with planned taper.

# HTN: Gradually restarted atenolol home dose. Continued home 
HCTZ

# HLD: Continued home pravastatin.

# Nutrition: Mutivitamins 1 TAB PO/NG DAILY 

# Osteopenia: Vitamin D 1000 UNIT PO/NG DAILY

# GERD: Calcium Carbonate 500 mg PO/NG QID:PRN heartburn, 
Omeprazole 40 mg PO DAILY.

TRANSITIONAL ISSUES:
=================================
# Ibuprofen was held from ___ but restarted prior to 
discharge. We recommend that you follow-up with your PCP 
regarding appropriate taper.  Ibuprofen taper for pericariditis: 
600mg three times a day for 2 weeks ___ then 600mg two 
times a day for 2 weeks (___), then stop. 
# Should symptoms persist and patient become interested in 
potential pericardial biopsy, please arrange for outpatient 
follow-up with ___ clinic.
# CT scan on ___ showed a slight interval increase in the small 
bilateral pleural effusions. We recommend following this up with 
your PCP. If you develop increased shortness of breath, this may 
indicate that you will need your pleural effusion tapped again 
by interventional pulmonology. 
# CT scan also showed some incidental findings that we recommend 
follow-up in ___ months by your PCP: 1) a single enlarged right 
hilar lymph node that measures up to 1.3 cm in short axis and 
2)a 3 mm left upper lobe pulmonary nodule is noted. 
# Recommend follow-up TTE in ___ weeks to assess pericardial 
effusion
# Will need follow-up of: 
-Serum mycoplasma, brucella, and ___
-Blood cultures 
-ESR
-Sputum cultures for TB
# Contact: ___ ___
# Code status: full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Calcium Carbonate 500 mg PO QID:PRN heartburn 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Colchicine 0.6 mg PO BID 
9. Ibuprofen 600 mg PO Q8H 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Calcium Carbonate 500 mg PO QID:PRN heartburn 
3. Colchicine 0.6 mg PO BID 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Ibuprofen 600 mg PO Q8H 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. Pravastatin 20 mg PO QPM 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Pericarditis
Tachycardia
Pericardial effusion
Pleural effusion
Pulmonary nodule

Secondary Diagnosis: 
Hyperlipidemia
Hypertension

Primary Diagnosis:
Pericarditis
Tachycardia
Pericardial effusion
Pleural effusion

Secondary Diagnosis: 
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care while you were at 
___.  You were admitted to the 
hospital for recurrent fevers after your last admission to the 
hospital.  You were started on antibiotics in the Emergency 
Department but your chest x-ray was normal.  We believe that 
your symptoms are related to your persistent pericarditis, which 
is going to take time to resolve. We are still concerned that 
your pericarditis could be due to tuberculosis and recommended 
that you undergo a biopsy of the sac around the heart 
(pericardium) to help diagnose this condition, however after 
discussing the risks and benefits with you in conjunction with 
the infectious disease team, you opted to forego this procedure 
at this time. 

You will need to have a follow-up echocardiogram in the next ___ 
weeks to evaluate the fluid around your heart (pericardial 
effusion). You will also be completing your ibuprofen taper for 
pericarditis. 

You are now medically cleared to be discharged from the 
hospital.  Please call your doctor or return to the Emergency 
Department if you have any new or worsening symptoms that 
concern you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

You have follow-up appointments scheduled with your primary care 
provider as well as the infectious disease specialists, the 
details of which are below.

We wish you the very best,
-- Your ___ Care Team
 
Followup Instructions:
___